* D:\savonia\Analog Electronics\assignments\3.2 Diode Application\Draft1.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 N002 SINE(0 100 50)
R1 0 N002 2.2k
R2 N003 N002 2.2k
D1 0 N001 D
D2 N001 N003 D
R3 N003 0 2.2k
.model D D
.lib C:\Users\fngn\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 0.04 0 100
.backanno
.end
